US08183240B2
A mixture of 4-cyano-3-(2,4-dichlorophenyl)-5-[2-(hydroxymethyl)morpholin-4-yl]thiophene-2-carboxamide (115 mg, 0.279 mmol) in 1,1-dimethoxy-N,N-dimethylmethanamine (3.44 mL, 0.025 mol) was flushed with argon and then irradiated in microwave at 160° C. for 60 min. The reaction mixture was concentrated to give 4-cyano-3-(2,4-dichlorophenyl)-N-[(1E)-(dimethylamino)methylene]-5-[2-(hydroxymethyl)morpholin-4-yl]thiophene-2-carboxamide (130 mg, 99%). LCMS: (FA) ES+ 467. To the above intermediate in AcOH (4.3 mL, 0.076 mol) was added hydrazine hydrate (100 mg, 0.003 mol). The mixture was flushed with argon and then irradiated in microwave at 120° C. for 20 min. The mixture was concentrated to remove the solvent. The residue was purified using ISCO chromatography on silica gel, elution 1:1 hexane-ethyl acetate to ethylacetate to afford 4-(2,4-dichlorophenyl)-2-[2-(hydroxymethyl)morpholin-4-yl]-5-(4H-1,2,4-triazol-3-yl)thiophene-3-carbonitrile (90 mg, 70%). LCMS: (FA) ES+ 436, 1H NMR (400 MHz, d4-methanol) δ: 8.28 (s, 1H), 7.55 (d, 1H), 7.41 (dd, 1H), 7.34 (d, 1H), 4.12-3.72 (m, 5H), 3.68-3.61 (m, 2H), 3.30-3.20 (m, 1H), 3.12-3.02 (m, 1H).

reactant | 4-cyano-3-(2,4-dichlorophenyl)-5-[2-(hydroxymethyl)morpholin-4-yl]thiophene-2-carboxamide | 0.279 mmol, 115 mg | C(#N)C=1C(=C(SC1N1CC(OCC1)CO)C(=O)N)C1=C(C=C(C=C1)Cl)Cl | C17H15Cl2N3O3S
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 0.025 mol, 3.44 mL | COC(N(C)C)OC | C5H13NO2
product | 4-cyano-3-(2,4-dichlorophenyl)-N-[(1E)-(dimethylamino)methylene]-5-[2-(hydroxymethyl)morpholin-4-yl]thiophene-2-carboxamide | 130 mg, 99% | C(#N)C=1C(=C(SC1N1CC(OCC1)CO)C(=O)/N=C/N(C)C)C1=C(C=C(C=C1)Cl)Cl | C20H20Cl2N4O3S
